US04183932
The starting material may be prepared as follows: To a solution of 1.92 g of 2,6-dichloro-4-phenylquinazoline in 30 ml of dimethylsulfoxide was added 0.91 g of sodium azide. The mixture was heated at 100° C. for 1 hour with stirring and then poured into ice-water. The resulting precipitate was collected by filtration, washed with water and dried to give 1.9 g of 7-chloro-5-phenyltetrazolo[1,5-a]quinazoline. Recrystallization from chloroform-ethanol gave pale yellow needles, m.p. 209° C. (decomp.).

reactant | 2,6-dichloro-4-phenylquinazoline | 1.92 g | ClC1=NC2=CC=C(C=C2C(=N1)C1=CC=CC=C1)Cl | C14H8Cl2N2
reactant | sodium azide | 0.91 g | [N-]=[N+]=[N-].[Na+]
solvent | dimethylsulfoxide | 30 ml | CS(=O)C | C2H6OS
product | 7-chloro-5-phenyltetrazolo[1,5-a]quinazoline | 1.9 g | ClC=1C=C2C(=NC=3N(C2=CC1)N=NN3)C3=CC=CC=C3 | C14H8ClN5
